US08183271B2
Ethyl E-6-(4-cyanobenzyl)-8-(2-hydroxyphenyl)oct-7-enoate
15.98 ml (39.95 mmol) of a 2.5 M solution of n-butyllithium in hexane are slowly added to a solution of 6.411 g (14.27 mmol) of (2-hydroxybenzyl)triphenylphosphonium bromide in 300 ml of anhydrous THF at 0° C. Then, at this temperature, 4.1 g (14.27 mmol) of ethyl 6-(4-cyanobenzyl)-7-oxoheptanoate are slowly metered in. After warming to room temperature, the reaction solution is stirred for 12 hours and then mixed with saturated ammonium chloride solution and concentrated to dryness. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is concentrated to dryness. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1). 1.75 g (4.64 mmol, 32% of theory) of a colorless solid are obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (2-hydroxybenzyl)triphenylphosphonium bromide | 14.27 mmol, 6.411 g | [Br-].OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | ethyl 6-(4-cyanobenzyl)-7-oxoheptanoate | 14.27 mmol, 4.1 g | C(#N)C1=CC=C(CC(CCCCC(=O)OCC)C=O)C=C1 | C17H21NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | Ethyl E-6-(4-cyanobenzyl)-8-(2-hydroxyphenyl)oct-7-enoate | C(#N)C1=CC=C(CC(CCCCC(=O)OCC)\C=C\C2=C(C=CC=C2)O)C=C1 | C24H27NO3
